US05098928
4-(1,3-Dithian-2-ylidene)-4-(4-phenoxyphenyl)butyric acid (Compound No. 16)
Methyl 4-(1,3-dithian-2-ylidene)-4-(4-phenoxyphenyl)-butyrate, 1.29 g, was dissolved in a solvent mixture of 30 ml of tetrahydrofuran and 30 ml of ethanol and, 10 ml of 1 N sodium hydroxide aqueous solution was added to the solution followed by stirring at room temperature for 2 hours. Water was added to the reaction mixture. After washing with ethyl acetate, the aqueous phase was rendered acidic with conc. hydrochloric acid and extracted with ethyl acetate. After drying the ethyl acetate phase over magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was crystallized from ether to give 1.21 g of white crystals.

reactant | Methyl 4-(1,3-dithian-2-ylidene)-4-(4-phenoxyphenyl)-butyrate | S1C(SCCC1)=C(CCC(=O)OC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C21H22O3S2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
product | 4-(1,3-Dithian-2-ylidene)-4-(4-phenoxyphenyl)butyric acid | 1.21 g, yield: 97.0% | S1C(SCCC1)=C(CCC(=O)O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C20H20O3S2
